US08119632B2
[2,1,3]-Benzoxadiazol-5-yl(3,7-dioxa-9-azabicyclo[3.3.1]non-9-yl)methanone
9-Benzyl-3,7-dioxa-9-azabicyclo-(3.3.1)nonane (650 mg, 2.96 mmol, see: JOC, Vol. 71, No. 1, 2006, 413-415) was dissolved in methanol (20 ml) and formic acid (4 ml). 10% Pd/C (0.3 g) was added and the mixture was hydrogenated over night. The solids were filtered off, and the solvent evaporated. The residue was dissolved in methanol (20 ml) and a solution of HCl in dioxane (2 ml, 4N) was added and the solvent evaporated. The residue was dissolved in dichloromethane (80 ml), THF (20 ml) and triethylamine (3 ml) and a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (1.0 g, 5.5 mmol) in dichloromethane (10 ml) was added. After stirring the mixture for 0.5 h, water (100 ml) and H2SO4 (→pH2) were added and the organic phase extracted with sodium bicarbonate solution (100 ml), the aqueous was re-extracted with dichloromethane (50 ml) and the combined organics were dried over magnesium sulfate, and concentrated under vacuum. The crude product was purified by silica gel chromatography eluting with hexane/THF (50/50). The product was crystallized from dichloromethane/ethanol, which gave the title compound as an off white solid (590 mg): mp=197-199° C., LC-MS, MH+=276.2; 1H NMR (300 MHz, CDCl3) δ 7.98 (dd, 2H, J=9.0 and 1.2 Hz); 7.94 (t, 1H, J=1.2 Hz); 7.50 (dd, 1H, J=9.0 and 1.2 Hz); 4.52 (s, 2H); 4.21 (d, 2H, J=11.4 Hz); 4.09-4.02 (m, 4H); 3.90 (dd, 2H, J=10.8 and 2.4 Hz); 3.61 ppm (s, 2H).

reactant | 9-Benzyl-3,7-dioxa-9-azabicyclo-(3.3.1)nonane | C(C1=CC=CC=C1)N1C2COCC1COC2 | C13H17NO2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 5.5 mmol, 1.0 g | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
reactant | H2SO4 | pH2 | OS(=O)(=O)O | H2O4S
solvent | methanol | 20 ml | CO | CH4O
solvent | formic acid | 4 ml | C(=O)O | CH2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | Pd/C | 0.3 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | [2,1,3]-Benzoxadiazol-5-yl(3,7-dioxa-9-azabicyclo[3.3.1]non-9-yl)methanone | N=1ON=C2C1C=CC(=C2)C(=O)N2C1COCC2COC1 | C13H13N3O4
